US07741327B2
In a flask under argon was placed (S)-2-benzyloxycarbonylamino-4,4-difluoro-pentanoic acid methyl ester (626 mg, 2.08 mmol), methanol (8 mL) and 10% palladium on activated carbon (100 mg). Triethylsilane (3 mL) was added slowly and the mixture stirred at 25° C. for 30 min. Another portion of 10% palladium on activated carbon (100 mg) and triethylsilane (3 mL) was added and the mixture was stirred for 30 min. A third portion of 10% palladium on activated carbon (100 mg) and triethylsilane (3 mL) was added and the mixture was stirred for 30 min. The mixture was filtered to remove the catalyst and the solids washed with methanol. The filterate was concentrated in vacuo, azeotroped with toluene, dissolved in dichloromethane and concentrated in vacuo with silica gel (2 g). Purification by Biotage flash chromatography (Aspire 40 g column, 100% ethyl acetate) afforded (S)-2-amino-4,4-difluoro-pentanoic acid methyl ester (151 mg) as a clear colorless liquid.

reactant | (S)-2-benzyloxycarbonylamino-4,4-difluoro-pentanoic acid methyl ester | 2.08 mmol, 626 mg | COC([C@H](CC(C)(F)F)NC(=O)OCC1=CC=CC=C1)=O | C14H17F2NO4
reactant | Triethylsilane | 3 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | triethylsilane | 3 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | triethylsilane | 3 mL | C(C)[SiH](CC)CC | C6H16Si
catalyst | palladium on activated carbon | 100 mg | [Pd] | Pd
catalyst | palladium on activated carbon | 100 mg | [Pd] | Pd
catalyst | palladium on activated carbon | 100 mg | [Pd] | Pd
solvent | methanol | 8 mL | CO | CH4O
product | (S)-2-amino-4,4-difluoro-pentanoic acid methyl ester | 151 mg | COC([C@H](CC(C)(F)F)N)=O | C6H11F2NO2
